US04568687
4-Chloro-N-[3-(2ethyl-1H-imidazol-1-yl)propyl]benzamide
A mixture of 2.3 g. of 2-ethyl-1H-imidazole-1-propanediamine, 15 ml. of 2N sodium hydroxide and 150 ml. of methylene chloride was stirred at room temperature and 4.0 ml. of 4-chlorobenzoyl chloride was added. The reaction mixture was stirred for 18 hours, then methylene chloride and 15 ml. of 1N sodium hydroxide were added and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The crystalline residue was washed onto a filter with ether and melted at 120°-122° C.

reactant | 2-ethyl-1H-imidazole-1-propanediamine | C(C)C=1N(C=CN1)CCC(N)N | C8H16N4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[3-(2ethyl-1H-imidazol-1-yl)propyl]benzamide | ClC1=CC=C(C(=O)NCCCN2C(=NC=C2)CC)C=C1 | C15H18ClN3O
